US06534135B1
Following the Procedure A, the reaction was performed with 1.96 g of 2,3,4-trimethoxybenzaldehyde (10 mmol) and 1.77 g 3,4-dimethoxyphenyl-acetonitrile (10 mmol), affording 2-(3,4-dimethoxy-phenyl)-3-(2,3,4-trimethoxy-phenyl)-acrylonitrile as yellow powder (yield 3.2 g, 90%).

reactant | 2,3,4-trimethoxybenzaldehyde | 10 mmol, 1.96 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | 3,4-dimethoxyphenyl-acetonitrile | 10 mmol, 1.77 g | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
product | 2-(3,4-dimethoxy-phenyl)-3-(2,3,4-trimethoxy-phenyl)-acrylonitrile | yield 3.2 g, 90% | COC=1C=C(C=CC1OC)C(C#N)=CC1=C(C(=C(C=C1)OC)OC)OC | C20H21NO5
